*******************************************************************************
*****************************************************************
* NXP 2N7002
*
* Polarity N-Channel
* Ratings 60V/2.80E+00OHMS/5.00E-01A
*
* Date Created Tue May 17 14:47:53 2005
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT 2N7002 DRAIN GATE SOURCE

LD DRAIN 5 7e-10
RLD2 DRAIN 5 1.7592904
RLD1 5 4 0.00035
LG GATE 1 2.8e-09
RLG GATE 1 7.0371616
LS SOURCE 8 8e-10
RLS2 SOURCE 8 2.0106176
RLS1 8 7 0.0069

RDS 7 4 4800000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 1.34735898321161 TC=0.00476908397815729,2.19614445937605e-05
RBD 9 4 0.286924398929818 TC=0.00476908397815729,2.19614445937605e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 1500000000
CGS 2 6 1.505e-11
RG 1 2 1.767

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	22.000
+ -5	22.000
+ -2	22.000
+ -1	22.000
+ -0.5	22.000
+ -0.2	22.000
+ -0.1	22.000
+ 0	22.000
+ 0.1	22.000
+ 0.2	21.000
+ 0.3	20.000
+ 0.4	29.000
+ 0.5	28.000
+ 0.6	17.500
+ 0.7	17.000
+ 0.8	16.000
+ 0.9	15.500
+ 1	15.000
+ 2	13.000
+ 5	9.600
+ 10	7.700
+ 30	5.000
+ 60	3.500



.MODEL MINT NMOS(Vto=2.14882067023342 Kp=5.1926e-01 Nfs=0 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=60.00 Ibv=1.00E-05 Rs=1E-6 Is=4.81161504587125e-14
+ N=1 M=0.2 VJ=0.5 Fc=0.5 Cjo=1.694e-11 Tt=3e-08)

.ENDS


*******************************************************************************
